US07696195B2
4-hydroxymethyl-[1,4′]bipiperidinyl-4-ol
A solution of 200 g AD-Mix-Alpha (Messrs Aldrich, Item no. 39,275-8) in 500 mL water and 300 mL tert-butanol was stirred for 20 min at RT, cooled to 0° C., combined with 13.7 g (144 mmol) methanesulphonic acid amide and 27.0 g (144 mmol) of 1-benzyl-4-methylene-piperidine and, after removal of the cooling bath, stirred for 22 h at RT. 59 g Na2SO3 were added to the reaction mixture and it was stirred for 1 h at RT. 2 L EtOAc and 500 mL saturated NaHCO3 solution were added, the organic phase was separated off and dried over Na2SO4 . After the desiccant and solvent had been eliminated the residue was dissolved in 150 mL EtOAc and filtered through Alox. The filtrate was discarded and the product was eluted from the Alox with 1 L MeOH. After the solvent had been eliminated the product was reacted further without purification.

reactant | AD-Mix-Alpha | 200 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | tert-butanol | 300 mL | C(C)(C)(C)O | C4H10O
reactant | methanesulphonic acid amide | 144 mmol, 13.7 g | CS(=O)(=O)N | CH5NO2S
reactant | 1-benzyl-4-methylene-piperidine | 144 mmol, 27.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=C | C13H17N
solvent | water | 500 mL | O | H2O
product | 4-hydroxymethyl-[1,4′]bipiperidinyl-4-ol | OCC1(CCN(CC1)C1CCNCC1)O | C11H22N2O2
